US06274383B1
In the same manner as Example 35(a), O-benzylhydroxylamine hydrochloride (1.92 g, 12 mmol) reacted with N-methylisatoic anhydride (2.0 g, 10 mmol) to give 2-methylamino-N-benzyloxylbenzamide as a yellow solid (0.75 g).

reactant | O-benzylhydroxylamine hydrochloride | 12 mmol, 1.92 g | Cl.C(C1=CC=CC=C1)ON
reactant | N-methylisatoic anhydride | 10 mmol, 2.0 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
product | 2-methylamino-N-benzyloxylbenzamide | 0.75 g | CNC1=C(C(=O)NOCC2=CC=CC=C2)C=CC=C1 | C15H16N2O2
